US05939448
Using 2-chloro-2',4'-difluoroacetophenone (4.5 g, 0.024 mol), 2-benzyloxyethanethiol (4.2 g, 0.025 mol), potassium carbonate (4.0 g, 0.029 mol) and methanol (50 ml), 2-(2-benzyloxyethyl)thio-2',4'-difluoroacetophenone (6.2 g, yield: 80.8%) was obtained as a colorless oil by similar procedures to Example 1.

reactant | 2-chloro-2',4'-difluoroacetophenone | 0.024 mol, 4.5 g | ClCC(=O)C1=C(C=C(C=C1)F)F | C8H5ClF2O
reactant | 2-benzyloxyethanethiol | 0.025 mol, 4.2 g | C(C1=CC=CC=C1)OCCS | C9H12OS
reactant | potassium carbonate | 0.029 mol, 4.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 50 ml | CO | CH4O
product | 2-(2-benzyloxyethyl)thio-2',4'-difluoroacetophenone | 6.2 g, yield: 80.8% | C(C1=CC=CC=C1)OCCSCC(=O)C1=C(C=C(C=C1)F)F | C17H16F2O2S
